US04808620
A solution of 69.1 g of 4-(2-chloronicotinoyl)-2,6-di-tertiary butylphenol and 45 g of hydrazine hydrate in 380 ml of pyridine is refluxed for 5 hours. After the pyridine is distilled off under reduced pressure, to the obtained residue is added water. The crude crystals precipitated are recrystallized from ethanol to give 62.5 g of 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine as white crystals, melting at 216°-217° C.

reactant | 4-(2-chloronicotinoyl)-2,6-di-tertiary butylphenol | 69.1 g | ClC1=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC=N1 | C20H24ClNO2
reactant | hydrazine hydrate | 45 g | O.NN
solvent | pyridine | 380 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | 62.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC2=NC=CC=C21 | C20H25N3O
